US07727979B2
3-bromo-2-oxo-cyclohexane carboxylic acid ethyl ester (Starting Product for Example C-30)
The bromination of 2-oxo-cyclohexane carboxylic acid ethyl ester takes place in a manner similar to that described above for the preparation of 2-bromo-4-isopropyl-cyclohexanone. The title compound is reacted as a crude product without further characterization.

reactant | 2-oxo-cyclohexane carboxylic acid ethyl ester | C(C)OC(=O)C1C(CCCC1)=O | C9H14O3
reactant | 2-bromo-4-isopropyl-cyclohexanone | BrC1C(CCC(C1)C(C)C)=O | C9H15BrO
product | 3-bromo-2-oxo-cyclohexane carboxylic acid ethyl ester | C(C)OC(=O)C1C(C(CCC1)Br)=O | C9H13BrO3
